US06503949B1
A mixture 750 mg of 5-amino-2-trifluoromethoxybenzoic acid (750 mg, 3.39 mmol) and 2-aminophenol (370 mg, 3.39 mmol) in 10 mL of polyphosphoric acid was heated and stirred at 250° C. for 3.5 hours. The mixture was poured into ice water under stirring, followed by addition of NaHCO3 until pH 8. The mixture was extracted with ethyl acetate. The organic phase was washed with water twice, brine, rinsed with activated charcoal, dried over MgSO4 and evaporated to give an oil, which contained two compounds, according to TLC. This mixture was dissolved in DMF and separated on semi preparative HPLC (Gilson 215 Liquid Handler), stationary phase: RP18, mobile phase: Water/MeCN gradient 95%/5%-5%/95% to afford 216 mg (22%) of 3-benzoxazol-2-yl-4-trifluoromethoxyphenylamine as crystals.

reactant | 5-amino-2-trifluoromethoxybenzoic acid | 3.39 mmol, 750 mg | NC=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C8H6F3NO3
reactant | 2-aminophenol | 3.39 mmol, 370 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-benzoxazol-2-yl-4-trifluoromethoxyphenylamine | 216 mg, 22% | O1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2OC(F)(F)F)N | C14H9F3N2O2
